US04559342
A mixture of 19.7 g of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 30.1 g of anhydrous piperazine and 100 ml of dimethylsulphoxide is heated at 135° to 140° C. for 2 hours. The solvent is distilled off under a fine vacuum and the residue is suspended in H2O, filtered off with suction and washed with water. For further purification, the moist crude product is boiled up with 100 ml of water, filtered off with suction at room temperature, washed with H2O and dried to constant weight over CaCl2 at 100° C. in a vacuum drying cabinet. 19.6 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid of decomposition point 255° to 257° C. are obtained.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 19.7 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | piperazine | 30.1 g | N1CCNCC1 | C4H10N2
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 19.6 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
